US04980345
Ten grams (0.064 mole) of 2-fluoro-3-hydroxy-6,6-dimethylhept-1-ene-4-yne was added 200 ml of concentrated hydrochloric acid, and the mixture was aged for 5 hours at room temperature with stirring. The reaction mixture was extracted with three 100 ml portions of diethylether. The organic layers were combined, washed once with 100 ml of a saturated aqueous sodium chloride solution and concentrated under reduced pressure. The resulting oily product was distilled under reduced pressure to obtain 5 g of 1-chloro-2-fluoro-6,6-dimethylhept-2-ene-4-yne.

reactant | 2-fluoro-3-hydroxy-6,6-dimethylhept-1-ene-4-yne | 0.064 mole, Ten grams | FC(=C)C(C#CC(C)(C)C)O | C9H13FO
reactant | hydrochloric acid | 200 ml | Cl | ClH
product | 1-chloro-2-fluoro-6,6-dimethylhept-2-ene-4-yne | 5 g | ClCC(=CC#CC(C)(C)C)F | C9H12ClF
